US09102684B2
5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one
A mixture of 5-Bromo-3-methyl-3-phenyl-1,3-dihydro-indol-2-one (602 mg, 2 mmol), compound 3,5-dimethylisoxazole-4-boronic acid (564 mg, 4 mmol), Pd(PPh3)4 (440 mg, 0.4 mmol) and Cs2CO3 (1.624 g, 5 mmol) in dioxane (10 mL) and H2O (5 mL) is stirred at 80° C. under nitrogen for 20 hours. The mixture is poured into water (20 mL) and extracted with ethyl acetate (20 mL×3). The combined organic phase is washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue is purified by chromatography on silica gel (ethyl acetate:petroleum ether=1:2) to give the desired compound.

reactant | 5-Bromo-3-methyl-3-phenyl-1,3-dihydro-indol-2-one | 2 mmol, 602 mg | BrC=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C | C15H12BrNO
reactant | 3,5-dimethylisoxazole-4-boronic acid | 4 mmol, 564 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | Cs2CO3 | 5 mmol, 1.624 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.4 mmol, 440 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C)C | C20H18N2O2
